US05466820
In the same manner as in Reference Example 5, starting from 0.31 g of (1S)-1-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 0.50 g of 4-[4-[4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-1-piperazinyl]phenyl]-3(2H,4H)-1,2,4-triazolone, 0.15 g of 2-[(1R,2S)-2-(2,4-difluorophenyl)- 2,3-epoxy-1-methylpropyl]-4-[4-[4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-1-piperazinyl]phenyl]-3(2H,4H)-1,2,4-triazolone was obtained as a colorless powder.

reactant | (1S)-1-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 0.31 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 4-[4-[4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-1-piperazinyl]phenyl]-3(2H,4H)-1,2,4-triazolone | 0.50 g | FC(COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(NN=C1)=O)(C(F)F)F | C21H21F4N5O2
product | 2-[(1R,2S)-2-(2,4-difluorophenyl)- 2,3-epoxy-1-methylpropyl]-4-[4-[4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-1-piperazinyl]phenyl]-3(2H,4H)-1,2,4-triazolone | 0.15 g | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2N=CN(C2=O)C2=CC=C(C=C2)N2CCN(CC2)C2=CC=C(C=C2)OCC(C(F)F)(F)F)CO1 | C31H29F6N5O3
